US08729061B2
(2S,3S)-3-Amino-N-ethyl-2-hydroxypentanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, using isocyanoethane in the third step (A3).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | isocyanoethane | [N+](#[C-])CC | C3H5N
product | (2S,3S)-3-Amino-N-ethyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NCC)O)CC | InChI=1S/C7H16N2O2.2ClH/c1-3-5(8)6(10)7(11)9-4-2;;/h5-6,10H,3-4,8H2,1-2H3,(H,9,11);2*1H/t5-,6-;;/m0../s1
